US04060633
A solution of 2.6 g. of 3-(4'-fluoro-4-biphenylyl)-1,3-butanediol in 10 ml. of pyridine is added dropwise, at -5°, while stirring, to a mixture of 1 g. of PBr3, 1 ml. of pyridine and 3 ml. of benzene. The reaction mixture is then stirred for 24 hours at 20° and worked up in the customary manner to give 1-bromo-3-(4'-fluoro-4-biphenylyl)-butan-3-ol, m.p. 72° -74°.

reactant | 3-(4'-fluoro-4-biphenylyl)-1,3-butanediol | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(CCO)(C)O | C16H17FO2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | PBr3 | P(Br)(Br)Br | Br3P
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-bromo-3-(4'-fluoro-4-biphenylyl)-butan-3-ol | BrCCC(C)(O)C1=CC=C(C=C1)C1=CC=C(C=C1)F | C16H16BrFO
